US07273882B2
A mixture of 3-chloro-5-hydroxybenzoic acid (3.22 mmol), oxalyl chloride (6.5 mmol) and catalytic amount of DMF in DCM was heated at reflux for 2 hrs. (bath temperature at 60° C.). Solvent was evaporated in vacuo and the residue was dissolved in 1,4-dioxane. NH3 (0.5 M in 1,4-dioxane, 1.5 eq.) and DIEA (1.5 eq.) were added and the reaction mixture was stirred at RT overnight. The reaction mixture was transferred to a pressure vessel, followed by the addition of 1 mL of 6 M NH3 in MeOH. The pressure vessel was sealed and heated at 90° C. for 2 hrs. The solvents were evaporated to give a crude product, which was purified by chromatography over silica gel (EtOAc) to yield 0.51 g (57%, theoretical yield 0.896 g) of 3-chloro-5-hydroxybenzamide. LCMS (Cond. A) RT 1.05 min., MH+ 172. 1H NMR (500 MHz, CD3OD) δ 7.31 (t, J=1.7 Hz, 1 H), 7.19 (t, J=1.8 Hz, 1 H), 6.94 (t, J=2.1 Hz, 1 H).

reactant | 3-chloro-5-hydroxybenzoic acid | 3.22 mmol | ClC=1C=C(C(=O)O)C=C(C1)O | C7H5ClO3
reactant | oxalyl chloride | 6.5 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH3 | 0.5 M, 1.5 eq. | N | H3N
reactant | DIEA | 1.5 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | NH3 | 6 M, 1 mL | N | H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-chloro-5-hydroxybenzamide | 0.51 g, 57% | ClC=1C=C(C(=O)N)C=C(C1)O | C7H6ClNO2
